US07618975B2
(2-Chloro-6,7-dimethoxyquinazolin-4-yl)-(4-methyl-phenyl)-methyl-amine
The title compound was prepared from 2,4-dichloro-6,7-dimetoxyquinazoline (100 mg, 0.386 mmol) and N-methyl-p-tolylamine (49 mg, 0.386 mmol) by a procedure similar to example 1b and was isolated as white powder (8 mg, 8%). 1H NMR (CDCl3): 7.27 (d, J=8.4 Hz, 2H), 7.15 (d, J=8.4 Hz, 2H), 7.08 (s, 1H), 6.26 (s, 1H), 3.92 (s, 3H), 3.61 (s, 3H), 3.28 (s, 3H), 2.37 (s, 3H).

reactant | 2,4-dichloro-6,7-dimetoxyquinazoline | 0.386 mmol, 100 mg | ClC1=NC2=CC(=C(C=C2C(=N1)Cl)OC)OC | C10H8Cl2N2O2
reactant | N-methyl-p-tolylamine | 0.386 mmol, 49 mg | CNC1=CC=C(C=C1)C | C8H11N
product | (2-Chloro-6,7-dimethoxyquinazolin-4-yl)-(4-methyl-phenyl)-methyl-amine | ClC1=NC2=CC(=C(C=C2C(=N1)N(C)C1=CC=C(C=C1)C)OC)OC | C18H18ClN3O2
